US04535184
Methyl fluorosulfate (7.6 g, 0.0665 mol) was added dropwise at 0° to a stirred solution of tris(dimethylamino)sulfonium 1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethyl)-2-pentanide, prepared by dissolving 20.2 g (0.073 mol) of tris(dimethylamino)sulfonium difluorotrimethylsilicate and 20.0 g (0.0665 mol) of 1,1,1,3,4,4,5,5,5-nonafluoro-2-trifluoromethyl-2-pentene in 75 mL of benzonitrile. The reaction mixture was warmed at 25°, and the most volatile portion of the reaction mixture was distilled out under reduced pressure. The distillate was redistilled at atmospheric pressure to give 13.27 g (60%) of 3,3,4,4,5,5,5-heptafluoro-2,2-bis(trifluoromethyl)pentane as a colorless liquid: b.p. 88°-89°; 19F NMR (CCl3F) δ -67.7 ppm (t,t 6F), -81.1 ppm (t, 3F), -110.5 ppm (m, 2F) and -123.7 ppm (m, 2F); 1H NMR (CCl3F) δ 1.72 ppm. Anal. Calcd. for C7H3F13 : C, 25.17; H, 0.91; F, 73.93. Found: C, 24.88; H, 0.87; F, 73.64.

reactant | Methyl fluorosulfate | 0.0665 mol, 7.6 g | S(=O)(=O)(OC)F | CH3FO3S
reactant | tris(dimethylamino)sulfonium 1,1,1,3,3,4,4,5,5,5-decafluoro-2-(trifluoromethyl)-2-pentanide | FC([C-](C(C(C(F)(F)F)(F)F)(F)F)C(F)(F)F)(F)F.CN(C)[S+](N(C)C)N(C)C
reactant | 1,1,1,3,4,4,5,5,5-nonafluoro-2-trifluoromethyl-2-pentene | 0.0665 mol, 20.0 g | FC(C(=C(C(C(F)(F)F)(F)F)F)C(F)(F)F)(F)F | C6F12
solvent | benzonitrile | 75 mL | C(C1=CC=CC=C1)#N | C7H5N
product | 3,3,4,4,5,5,5-heptafluoro-2,2-bis(trifluoromethyl)pentane | 13.27 g, 60% | FC(C(C)(C(F)(F)F)C(F)(F)F)(C(C(F)(F)F)(F)F)F | C7H3F13
